US07217723B2
(5-Acetyl-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-carbamic acid t-butyl ester
(5-Bromo-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)carbamic acid tert-butyl ester (the compound of Preparation Example 97) (5.5 g), tributyl(1-ethoxyvinyl)tin (6.7 g), cesium fluoride (5.3 g) and tetrakis(triphenylphosphine)palladium (0.73 g) were stirred in 1,4-dioxane (50 mL) at 100° C. for 2 hours. After ethyl acetate was added and insoluble matter was removed by filtration, 2N hydrochloric acid was added, and the solution was stirred for 10 minutes. After washing the organic layer with water, an aqueous solution of sodium bicarbonate and saturated sodium chloride water, and was dried with anhydrous magnesium sulfate. The residue resulting from the removal of the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (3.2 g9 was obtained as a colorless solid.

reactant | (5-Bromo-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CC(O)C1=CC=C(C=C1)F)(=O)=O)Br)=O | C18H22BrFN2O5S2
reactant | tributyl(1-ethoxyvinyl)tin | 6.7 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | cesium fluoride | 5.3 g | [F-].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.73 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-Acetyl-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-carbamic acid t-butyl ester | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CC(O)C1=CC=C(C=C1)F)(=O)=O)C(C)=O)=O | C20H25FN2O6S2
